US06255496B1
4-[4-[2-(N-dodecyl-N-ethylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone
N-Ethyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine (123 mg, 0.244 mmol) was treated with trifluoroacetic acid as described in the preparation of 4-[N-dodecyl-N-[2-[4-(4,4,4-trifluoro-3-oxobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester and afforded the title compound (60 mg, 54%) as a pale yellow oil.

reactant | N-Ethyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | 0.244 mmol, 123 mg | C(C)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C28H48F3NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[N-dodecyl-N-[2-[4-(4,4,4-trifluoro-3-oxobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
product | 4-[4-[2-(N-dodecyl-N-ethylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 60 mg, 54% | C(CCCCCCCCCCC)N(CC)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C26H42F3NO2
